US06664291B2
N-(4-{3-[(4-Fluoro-phenyl)-hydroxy-methyl]-4-hydroxy-phenoxy}-3,5-dimethyl-phenyl)-malonamic acid
To a solution of N-{4-[3-(4-fluoro-benzoyl)-4-hydroxy-phenoxy]-3,5-dimethyl-phenyl}-malonamic acid methyl ester (222 mg, 0.49 mmol) in a mixture of EtOH/EtOAc (4:1, 25 mL) was added nickel catalyst (2 mL, water and methanol washed). The mixture was hydrogenated under 50 psi at room temperature for 1 h. The catalyst was filtered off and the filtrate was concentrated. The residue was purified by preparative TLC to give the title compound of Step A (159 mg) as a white solid. MS (APCl−) Calc.: 453.2, Found: 452.2 (M−1).

reactant | N-{4-[3-(4-fluoro-benzoyl)-4-hydroxy-phenoxy]-3,5-dimethyl-phenyl}-malonamic acid methyl ester | 0.49 mmol, 222 mg | COC(CC(=O)NC1=CC(=C(C(=C1)C)OC1=CC(=C(C=C1)O)C(C1=CC=C(C=C1)F)=O)C)=O | C25H22FNO6
solvent | EtOH EtOAc | 25 mL | CCO.CCOC(=O)C
catalyst | nickel | 2 mL | [Ni] | Ni
product | N-(4-{3-[(4-Fluoro-phenyl)-hydroxy-methyl]-4-hydroxy-phenoxy}-3,5-dimethyl-phenyl)-malonamic acid | 159 mg | FC1=CC=C(C=C1)C(C=1C=C(OC2=C(C=C(C=C2C)NC(CC(=O)O)=O)C)C=CC1O)O | C24H22FNO6
